US20010056123A1
Step 1: Synthesis of 4-(1-methyl-2-imidazoline-2-yl)benzoic acid monohydrochloride:
1.8 g (10.3 mmol) of ethyl 4-cyanobenzoate was dissolved in a mixture of 20 ml of 4 N solution of hydrogen chloride in dioxane and 5 ml of ethanol, and the obtained solution was stirred at room temperature for 3 days. The solvent was evaporated, and the residue was washed with ethyl acetate. The obtained crude product was dissolved in 20 ml of ethanol. 1.52 g (20.6 mmol) of N-methylethylenediamine was added to the obtained solution, and they were heated under reflux for 6 hours. The solvent was evaporated, and the obtained crude product was treated with dichloromethane as the extraction solvent in an ordinary manner. The obtained crude product was dissolved in 10 ml of concentrated hydrochloric acid, and the obtained solution was stirred at 50° C. overnight. The solvent was evaporated to obtain the crude title compound.

reactant | ethyl 4-cyanobenzoate | 10.3 mmol, 1.8 g | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
reactant | N-methylethylenediamine | 20.6 mmol, 1.52 g | CNCCN | C3H10N2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4-(1-methyl-2-imidazoline-2-yl)benzoic acid monohydrochloride | Cl.CN1C(=NCC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C11H12N2O2.ClH/c1-13-7-6-12-10(13)8-2-4-9(5-3-8)11(14)15;/h2-5H,6-7H2,1H3,(H,14,15);1H
